US04234589
D. 5-Chloro-6-[[1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethoxy]methyl]-1,3-dioxolo[4,5-g]quinoline, hydrochloride (1:2)
In a three-necked flask, fitted with stirrer, reflux condenser and gas inlet tube, are introduced 17.0 g of sodium hydroxide (0.425 mol) and 16 ml of water. While passing nitrogen through the flask, the solution is cooled to 45° C. and then are added 4.5 g of 1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethanol (0.0174 mol) [prepared according to J. Med. Chem., Vol. 12, 784 (1969)], 0.3 g of benzyltrimethylammonium chloride and 30 ml of of tetrahydrofuran. To the mixture, which is warmed to 50° C., 5.08 g of 5-chloro-7-chloromethyl-1,3-dioxolo[4,5-g]quinoline, hydrochloride (0.0174 mol) are added portionwise. The mixture is stirred vigorously for 3 hours at 60° C. using a water bath. Then the warm mixture is transferred into a separating funnel, the lower aqueous sodium hydroxide is extracted with 15 ml of tetrahydrofuran. The combined tetrahydrofuran layers are dried by means of sodium sulfate, charcoaled and removed to a volume of about 20 ml. Addition of 250 ml of ether precipitates an oily side product (1.6 g). To the solution of the free base are added dropwise ethereal hydrochloric acid. Initially the hydrochloride of 5-chloro-6-[[1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethoxy]methyl]-1,3-dioxolo[4,5-g]quinoline precipitates in oily form which, after standing overnight, becomes crystalline (6.6 g; m.p. 237°-238° C. dec.). After trituration with a small amount of methanol, the dihydrochloride is filtered off, washed with cooled methanol and dried at 70° C. Yield 5.5 g (58%), m.p. 242°-243° C. dec.

reactant | sodium hydroxide | 0.425 mol, 17.0 g | [OH-].[Na+]
reactant | water | 16 ml | O | H2O
reactant | 1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethanol | 0.0174 mol, 4.5 g | ClC1=C(C=CC(=C1)Cl)C(CN1C=NC=C1)O | C11H10Cl2N2O
reactant | 5-chloro-7-chloromethyl-1,3-dioxolo[4,5-g]quinoline, hydrochloride | 0.0174 mol, 5.08 g | Cl.ClN1CC(=CC=2C=C3C(=CC12)OCO3)CCl
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | benzyltrimethylammonium chloride | 0.3 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
product | 5-Chloro-6-[[1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethoxy]methyl]-1,3-dioxolo[4,5-g]quinoline, hydrochloride | Cl.ClN1C(C=CC=2C=C3C(=CC12)OCO3)COC(CN3C=NC=C3)C3=C(C=C(C=C3)Cl)Cl | InChI=1S/C22H18Cl3N3O3.ClH/c23-15-2-4-17(18(24)8-15)22(10-27-6-5-26-12-27)29-11-16-3-1-14-7-20-21(31-13-30-20)9-19(14)28(16)25;/h1-9,12,16,22H,10-11,13H2;1H
